US08021848B2
MES (2-[N-Morpholino]ethanesulfonic acid)
Prelysis solution: The solution is prepared according to Graves, L, et al. (1993). Universal Bacterial DNA isolation procedure. In Diagnostic molecular microbiology: principles and applications, D. Persing, T. Smith, F. Tenover and T. White, eds. (Washington, D.C.: American Society for Microbiology). The solution, which is freshly prepared and maintained on ice, contains: 0.25 ml of 2M Tris (pH 7.0), 3.1 ml of pancreatic lipase (prepared by dissolving 6.1 mg of pancreatic lipase (Sigma) in 59.8 ml of water and adding 1.2 ml of 0.1M CaCl2; stored at −20° C. in 3.1 ml aliquots), 0.3 ml of 1% sodium taurocholate (Difco), 0.5 ml of 0.1M CaCl2, 5.25 ml of sucrose, and 0.05 g of lysozyme.

reactant | Tris | 2M, 0.25 ml, pH 7.0 | C(C(CO)(CO)N)O | C4H11NO3
reactant | CaCl2 | 0.1M, 1.2 ml | [Cl-].[Cl-].[Ca+2]
reactant | sodium taurocholate | 0.3 ml | C[C@H](CCC(=O)NCCS(=O)(=O)[O-])[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C.[Na+]
reactant | CaCl2 | 0.1M, 0.5 ml | [Cl-].[Cl-].[Ca+2]
reactant | sucrose | 5.25 ml | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
solvent | water | 59.8 ml | O | H2O
product | MES | C1COCCN1CCS(=O)(=O)O.O | InChI=1S/C6H13NO4S.H2O/c8-12(9,10)6-3-7-1-4-11-5-2-7;/h1-6H2,(H,8,9,10);1H2
